US04806558
(b) Diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate
216 g (1 mole) of 2-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene were converted to 251 g (71%) of diethyl 1-hydroxy-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate of melting point 93°-95° C., and 188.4 g (88%) of the title compound were obtained from 203 g (0.57 mole) of the last-mentioned compound and 287 ml of thionyl chloride. Since the material decomposes during distillation, the working up procedure was modified as follows. The crude product obtained after removal of the thionyl chloride was dissolved in toluene, and the solution stirred with 5 g of potassium carbonate for 20 minutes. The solid was filtered off, the solvent was removed and the solidified mass was comminuted in a mortar. The material thus obtained (m.p. 65°-66° C.) was about 85% pure according to the H-NMR spectrum.

reactant | 2-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 1 mole, 216 g | C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C15H20O
reactant | diethyl 1-hydroxy-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate | 251 g | OC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C19H31O4P
reactant | thionyl chloride | 287 ml | S(=O)(Cl)Cl | Cl2OS
product | Diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate | 188.4 g, 88% | ClC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C19H30ClO3P
